US05679683
A mixture of 70% nitric acid and concentrated sulfuric acid (1:1, 30 mL) is added dropwise over 30 min to a solution of 2-fluorobenzonitrile (12.11 g, 0.10 mol) in concentrated sulfuric acid (50 mL), stirred under N2 at 0° C. After a further 3h at 0° C. the yellow solution is poured onto ice (400 g), and the solid is collected by Buchner filtration, rinsed with water (4×50 mL), and dried in vacuo to give 2-fluoro-5-nitrobenzonitrile (15.43 g, 93%) as a pale yellow crystalline solid. 1H NMR (CDCl3) δ8.56 (1H, dd, J=2.8, 5.5 Hz), 8.51 (1H, ddd, J=2.8, 4.4, 9.1 Hz), 7.44 (1H, dd, J=7.8, 9.0 Hz).

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 2-fluorobenzonitrile | 0.10 mol, 12.11 g | FC1=C(C#N)C=CC=C1 | C7H4FN
solvent | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
product | 2-fluoro-5-nitrobenzonitrile | 15.43 g, 93% | FC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3FN2O2
